US07622585B2
To a solution of 5-iodo-2-isopropoxyphenyl acetate (10 mmol) in MeOH (5 mL) and THF (15 mL), LiOH (1.0 M, 15 mL) was added at 0° C. After the mixture was stirred at rt for 3.0 h, 5% citric acid (30 mL) and diethyl ether (150 mL) was added. The organic extract was washed with brine, dried over Na2SO4 and evaporated to give 5-iodo-2-isopropoxyphenol (2.3 g) as an oil.

reactant | 5-iodo-2-isopropoxyphenyl acetate | 10 mmol | C(C)(=O)OC1=C(C=CC(=C1)I)OC(C)C | C11H13IO3
reactant | citric acid | 30 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | LiOH | 1.0 M, 15 mL | [Li+].[OH-]
product | 5-iodo-2-isopropoxyphenol | 2.3 g | IC=1C=CC(=C(C1)O)OC(C)C | C9H11IO2
